US04983600
N-(1-Azabicyclo[2.2.2]octan-3-yl)-N'-(4-chlorophenyl)urea
The above compound was prepared, following the procedure of Example 1, from 3-aminoquinuclidine (0.63 g, 5 mmol) and 4-chlorophenyl isocyanate (0.768 g, 5 mmol). The product was purified as the 1:1 maleate (1.23 g), mp 182°-183° C. (dec).

reactant | 3-aminoquinuclidine | 5 mmol, 0.63 g | NC1CN2CCC1CC2 | C7H14N2
reactant | 4-chlorophenyl isocyanate | 5 mmol, 0.768 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | N-(1-Azabicyclo[2.2.2]octan-3-yl)-N'-(4-chlorophenyl)urea | N12CC(C(CC1)CC2)NC(=O)NC2=CC=C(C=C2)Cl | C14H18ClN3O
